US09278968B2
To a mixture of 3.30 g of AD mix-α, 200 mg of methanesulfonamide, 12.5 ml of tert-butyl alcohol, and 12.5 ml of water was added a solution of 500 mg of tert-butyl {2-[(1Z)-prop-1-en-1-yl]benzyl}carbamate in 5 ml of tert-butyl alcohol, followed by stirring at room temperature for 12 hours. To the reaction mixture was added sodium thiosulfate, followed by extraction with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 449 mg of tert-butyl {2-[(1S,2R)-1,2-dihydroxypropyl]benzyl}carbamate.

reactant | methanesulfonamide | 200 mg | CS(=O)(=O)N | CH5NO2S
reactant | water | 12.5 ml | O | H2O
reactant | tert-butyl {2-[(1Z)-prop-1-en-1-yl]benzyl}carbamate | 500 mg | C(=C/C)/C1=C(CNC(OC(C)(C)C)=O)C=CC=C1 | C15H21NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tert-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butyl alcohol | 12.5 ml | C(C)(C)(C)O | C4H10O
product | tert-butyl {2-[(1S,2R)-1,2-dihydroxypropyl]benzyl}carbamate | 449 mg | O[C@H]([C@@H](C)O)C1=C(CNC(OC(C)(C)C)=O)C=CC=C1 | C15H23NO4
